US09302989B2
N-{5-[(3-methylbutyl)carbamoyl]-1,3-thiazol-2-yl}-1,3-dihydro-2H-isoindole-2-carboxamide
The title compound was prepared as described in Example 1C, substituting 3-methylbutan-1-amine for 3-phenylpropan-1-amine and 2-(isoindoline-2-carboxamido)thiazole-5-carboxylic acid for 4-(isoindoline-2-carboxamido)benzoic acid. 1H NMR (300 MHz, DMSO-d6) δ ppm 11.01-11.16 (bs, 1H), 8.27 (t, J=5.6 Hz, 1H), 7.96 (s, 1H), 7.29-7.36 (m, 4H), 4.73-4.88 (bs, 4H), 3.18-3.28 (m, 2H), 1.52-1.69 (m, 1H), 1.34-1.44 (m, 2H), 0.90 (d, J=6.6 Hz, 6H); MS (ESI(−)) m/e 357 (M−H)−.

reactant | 3-phenylpropan-1-amine | C1(=CC=CC=C1)CCCN | C9H13N
reactant | 2-(isoindoline-2-carboxamido)thiazole-5-carboxylic acid | C1N(CC2=CC=CC=C12)C(=O)NC=1SC(=CN1)C(=O)O | C13H11N3O3S
reactant | 4-(isoindoline-2-carboxamido)benzoic acid | C1N(CC2=CC=CC=C12)C(=O)NC1=CC=C(C(=O)O)C=C1 | C16H14N2O3
product | N-{5-[(3-methylbutyl)carbamoyl]-1,3-thiazol-2-yl}-1,3-dihydro-2H-isoindole-2-carboxamide | CC(CCNC(=O)C1=CN=C(S1)NC(=O)N1CC2=CC=CC=C2C1)C | C18H22N4O2S
